US07776875B2
In a manner similar to the method described in example 1c, 5-chloro-2-methylbenzaldehyde (15 g, 97 mmol) was used as the starting to react with 1M THF solution of LiHMDS (97 mmol, 97 mL), trimethylsilyl chloride (10.3 g, 97 mmol), triethylamine (13.2 g, 126 mmol) and acetyl chloride (9.5 g, 126 mmol) to give crude 1-(5-chloro-2-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used without further purification.

reactant | 5-chloro-2-methylbenzaldehyde | 97 mmol, 15 g | ClC=1C=CC(=C(C=O)C1)C | C8H7ClO
reactant | LiHMDS | 97 mmol, 97 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | trimethylsilyl chloride | 97 mmol, 10.3 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 126 mmol, 13.2 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 126 mmol, 9.5 g | C(C)(=O)Cl | C2H3ClO
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 1-(5-chloro-2-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18ClNOSi
